US04005208
Reacting 1-(N-methylcarbamoyl)-3-aminopiperidine with 9-acetoxyxanthene in dry toluene by the procedure of Example 1 gives N-[1-(N-methylcarbamoyl)-3-piperidinyl]-9-xanthenylamine.

reactant | 1-(N-methylcarbamoyl)-3-aminopiperidine | CNC(=O)N1CC(CCC1)N | C7H15N3O
reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[1-(N-methylcarbamoyl)-3-piperidinyl]-9-xanthenylamine | CNC(=O)N1CC(CCC1)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C20H23N3O2
